### PR TITLE
🌿🌿🌿 WHIR theorem 4.20 🌿🌿🌿

### PR DESCRIPTION
**Pull request by ElijahVlasov**

### CODE REVIEW

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 1]
```diff
@@ -65,52 +67,590 @@ lemma folding_contracts_block_distance
...
+  `Pr_α [ Fold(Λ_b(C, k, f, δ), α) ≠ Λ(C⁽ᵏ⁾, Fold(f, α), δ) ] ≤ ∑ i < k, ε i δ`.
+  The `k` rounds of randomness are sampled independently and uniformly, and the bound is the
+  union bound over the per-round failure probabilities of `folding_reflects_balls'`. -/
+theorem iterated_folding_reflects_balls [Fintype F]
+    [FoldingContext k d n]
+    {ω : SmoothCosetFftDomain n F} {f : Word F (Fin (2 ^ n))}
+    (ε : ℕ → I → ℝ≥0) {δ : ℝ≥0} (hδ1 : δ ≤ 1) (hδ0 : 0 < δ)
+    (hmca : ∀ i, i < k → IsMCAGenerator (univariatePowersGenerator F 1) (ε i)
+      (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i - 1))))
+    (hrate : ∀ i, i < k → δ < 1 - (LinearCode.rate
```
Comment (quangvdao) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean:642]: **[P1] Check the rate of the code used by this round.** `hmca` and the folded output code use degree `2 ^ (d - i - 1)`, but this hypothesis uses `2 ^ (d - i)` on the same subdomain. Concretely, set (d=n-1) and (i=0): the subdomain has length (2^{n-1}), this code also has degree (2^d=2^{n-1}), so its rate is (1). Then `hrate` requires (δ<0), contradicting `hδ0 : 0 < δ). Thus the public theorem is vacuous in the intended original rate-(1/2) regime. Please use the actual target-code degree (or state and prove the intended (B^*) specialization) and add a non-vacuity boundary canary.

**Review by quangvdao — CHANGES_REQUESTED** [review]
Thanks, Ilia — this is a substantial proof effort, especially the single-round reflection argument and the probability/union-bound infrastructure.

I reviewed exact head `5df9335de2be805daa4b34c0708d6a05f26454e6`, separated the eight commits after the #689 dependency from the inherited folding-context work, compared the public statement with WHIR Theorem 4.20, and checked current upstream `main` at `5a9626d331d713c7e74efa7e3d93b7d0ec9c4dc2`.

## Verdict

Requesting changes. There is one statement-level correctness blocker, and this branch now needs to be rebuilt on the folding infrastructure merged through #825.

## Merge blockers

1. **[P1] The rate hypothesis is off by one folding step and makes the advertised theorem vacuous in an intended regime.** The MCA hypothesis and folded output code at round (i) use degree `2 ^ (d - i - 1)`, but `hrate` checks degree `2 ^ (d - i)` on the same subdomain. For the standard original rate-(1/2) case (d=n-1), at (i=0) that checked code has length and degree both (2^{n-1}), hence rate (1). The hypothesis becomes (δ < 1-1=0), contradicting the separate assumption (0<δ).

   The smallest likely repair is to state the rate condition for the actual folded target code, with degree `2 ^ (d - i - 1)`, and update `rate_folded_eq` / `two_pow_d_sub_one_le_rate_mul` accordingly. More conceptually, the paper uses a proximity bound (B^*(C^{(i)},2)); if the current rate expression is meant as a specialization, the bridge must be stated accurately. Please add a small boundary canary showing that the corrected hypotheses are satisfiable at original rate (1/2).

2. **[P2] Obsolete stack / conflict boundary.** This PR says it depends on #689, but #689 was closed and superseded in full by merged #825 because the fork branch did not permit maintainer edits. The current PR contains 30 unique commits and conflicts with current `main` in `Folding.lean`, `FoldingContext.lean`, `ListDecodability.lean`, and `CosetFftDomain/Subdomain.lean`. Please rebuild from current `main`/#825 and transplant or reimplement only the eight post-#689 theorem commits. This resolution crosses a redesigned abstraction boundary, so it needs a fresh semantic review rather than a blind rebase.

## Nonblocking hardening after restacking

- `δ_gt_0` is explicitly marked “not used but should be,” with the unused-variable linter disabled around the proof. Please either make positivity participate in the argument or narrow the statement/proof so the linter suppression is unnecessary.
- Document that ArkLib's `IsMCAGenerator` hypothesis quantifies over every radius, which is stronger than the pointwise assumption needed here, and that the Lean result uses a conservative `≤` error bound where the paper states a strict bound.
- Replace the WIP module text and emoji title with the final source correspondence and a conventional title such as `feat(coding-theory): prove iterated folding reflects decoding lists`.
- Expand the PR body with the exact theorem specialization, dependency/replacement history, and validation instructions.

## Validation

- GitHub's build job fails before Lean compilation because this historical branch appears to change four committed `docs/kb/_generated` files relative to its recorded base. Those generated files should disappear naturally when the theorem slice is rebuilt from current `main`.
- I separately built `ArkLib.Data.CodingTheory.ProximityGap.Folding.ListDecodability` successfully at the exact head. No new `sorry` or `admit` appears in the theorem slice.
- Imports, docs-integrity, and whitespace checks are green on the hosted head.
- Full current-main validation is not meaningful until the four conflicts and the statement issue are resolved.

Thank you for taking on the hard part of this theorem. Once the statement and stack are repaired, the core proof deserves a focused re-review.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 2]
```diff
@@ -65,52 +67,590 @@ lemma folding_contracts_block_distance
...
+    (by simpa using hmca.prob_le _ δ')
+
+open CoreDefinitions unitInterval in
+theorem folding_reflects_balls [Fintype F] [FoldingContext k d n]
+  {ε_mca : I → ℝ≥0}
+  (hmca : IsMCAGenerator (univariatePowersGenerator F 1) ε_mca
+    (ReedSolomon.code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ (d - 1))))
+  {δ : ℝ≥0}
+  (δ_gt_0 : 0 < δ) -- not used but should be
+  (δ_lt : δ <
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean:514]: **The δ-range hypothesis is stronger than the proof needs, and vacuous at rate ≥ 1/2.**

This hypothesis (and its three siblings: `folding_reflects_balls_aux`, both `iterated_folding_reflects_balls*`) reads `δ < 1 − rate(code (ω.subdomain 1) (2^d))` — the rate of a degree-`2^d` code on the *halved* domain, i.e. `min(2ρ, 1)` where `ρ` is the original rate. So the theorem requires **`δ < 1 − 2ρ`**, which is vacuous for `ρ ≥ 1/2` (`d ≥ n − 1`) — including the usual rate-1/2 WHIR instantiations — and never matches the paper's `δ ∈ (0, 1 − B⋆)`.

The proof only uses this to get `2^(d−1) ≤ T.card` (two degree-`< 2^(d−1)` codewords agreeing on the agreement set are equal), so the degree-`2^(d−1)` rate suffices: **`δ < 1 − ρ`**, which is weaker than every B⋆-based range from the paper (`B⋆ ≥ √ρ ≥ ρ`).

I compiled exactly this change against this head — `2 ^ d` → `2 ^ (d - 1)` at the four hypothesis sites plus `two_pow_d_sub_one_le_rate_mul` (whose proof becomes `le_min le_rfl …`) — with no other proof changes needed, and the whole chain stays axiom-clean:

<details><summary>verified diff</summary>

```diff
diff --git a/ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean b/ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean
index 32a82fe50..273f5f18e 100644
--- a/ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean
+++ b/ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean
@@ -388,11 +388,10 @@ omit [DecidableEq F] in
 lemma two_pow_d_sub_one_le_rate_mul (hkd : 1 ≤ d) (hdn : d ≤ n) :
   ((2 : ℝ≥0) ^ (d - 1)) ≤
     2 ^ (n - 1) *
-      (LinearCode.rate (code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ d)) : ℝ≥0) := by
+      (LinearCode.rate (code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ (d - 1))) : ℝ≥0) := by
   rw [rate_folded_eq, mul_div_cancel₀ _ (by positivity)]
-  have h1 : (2 : ℕ) ^ (d - 1) ≤ min (2 ^ d) (2 ^ (n - 1)) :=
-    le_min (Nat.pow_le_pow_right (by norm_num) (by omega))
-      (Nat.pow_le_pow_right (by norm_num) (by omega))
+  have h1 : (2 : ℕ) ^ (d - 1) ≤ min (2 ^ (d - 1)) (2 ^ (n - 1)) :=
+    le_min le_rfl (Nat.pow_le_pow_right (by norm_num) (by omega))
   exact_mod_cast Nat.cast_le.2 h1
 
 open CoreDefinitions unitInterval FoldingContext in
@@ -405,7 +404,8 @@ private lemma folding_reflects_balls_aux [Fintype F] [FoldingContext k d n]
   {δ : ℝ≥0}
   (δ_gt_0 : 0 < δ) -- not used but should be
   (δ_lt : δ <
-    (1 - (LinearCode.rate (ReedSolomon.code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ d))))) :
+    (1 - (LinearCode.rate
+      (ReedSolomon.code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ (d - 1)))))) :
   let δ' : I := ⟨δ, by aesop, by {
               rw [show 1 = NNReal.toReal 1 by norm_cast, ←NNReal.toReal_le]
               exact le_trans (le_of_lt δ_lt) (by simp)}⟩
@@ -486,7 +486,7 @@ private lemma folding_reflects_balls_aux [Fintype F] [FoldingContext k d n]
         simp [hwdef, evalOnPoints]
       have hTdeg : 2 ^ (d - 1) ≤ T.card := by
         have hrate' :
-          (LinearCode.rate (code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ d)) : ℝ≥0)
+          (LinearCode.rate (code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ (d - 1))) : ℝ≥0)
             ≤ 1 - δ := le_of_lt (lt_tsub_comm.mp δ_lt)
         have h1 : ((2 : ℝ≥0) ^ (d - 1)) ≤ (T.card : ℝ≥0) := by
           refine le_trans hrate (le_trans ?_ hTcard)
@@ -512,7 +512,8 @@ theorem folding_reflects_balls [Fintype F] [FoldingContext k d n]
   {δ : ℝ≥0}
   (δ_gt_0 : 0 < δ) -- not used but should be
   (δ_lt : δ <
-    (1 - (LinearCode.rate (ReedSolomon.code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ d))))) :
+    (1 - (LinearCode.rate
+      (ReedSolomon.code (ω.subdomain 1 : Fin (2 ^ (n - 1)) ↪ F) (2 ^ (d - 1)))))) :
   let δ' : I := ⟨δ, by aesop, by {
               rw [show 1 = NNReal.toReal 1 by norm_cast, ←NNReal.toReal_le]
               exact le_trans (le_of_lt δ_lt) (by simp)}⟩
@@ -546,7 +547,7 @@ private theorem iterated_folding_reflects_balls_aux [Fintype F] (k : ℕ) :
       (∀ i, i < k → IsMCAGenerator (univariatePowersGenerator F 1) (ε i)
         (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i - 1)))) →
       (∀ i, i < k → δ < 1 - (LinearCode.rate
-        (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i))) : ℝ≥0)) →
+        (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i - 1))) : ℝ≥0)) →
       Pr_{ let α ←$ᵖ (Fin k → F) }[
         Λ𞁒(code (ω.subdomain k : Fin (2 ^ (n - k)) ↪ F) (2 ^ (d - k)), b, ω.subdomain k,
             iteratedFoldWord ω f k α, δ) ≠
@@ -640,7 +641,7 @@ theorem iterated_folding_reflects_balls [Fintype F]
     (hmca : ∀ i, i < k → IsMCAGenerator (univariatePowersGenerator F 1) (ε i)
       (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i - 1))))
     (hrate : ∀ i, i < k → δ < 1 - (LinearCode.rate
-      (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i))) : ℝ≥0)) :
+      (code (ω.subdomain (i + 1) : Fin (2 ^ (n - (i + 1))) ↪ F) (2 ^ (d - i - 1))) : ℝ≥0)) :
     Pr_{ let α ←$ᵖ (Fin k → F) }[
       Set.image (fun u ↦ iteratedFoldWord ω u k α)
           (Λ𞁒(code (ω : Fin (2 ^ n) ↪ F) (2 ^ d), k, ω, f, δ)) ≠
```

</details>

For the record: I checked the full chain against ACFY24 (Claims 4.22/4.23 → Lemma 4.21 → Thm 4.20) — the MCA event, the `(1, α)` generator, the per-round codes `C⁽ⁱ⁾`, the error sum, and the final event all match, and every theorem here is axiom-clean. Really nice to see the `v = Fold(q, α)` uniqueness step made explicit (the paper hides it inside B⋆).

**Review by alexanderlhicks — COMMENTED** [review]
Full review of the Theorem 4.20 formalization against ACFY24 §4.3.2 (statements, proof structure, and a local build + axiom audit of this head, since CI's red build was the now-fixed #828 gate bug).

**Verdict: faithful and axiom-clean; one substantive statement change requested** (the δ-range — see the inline comment with a verified diff), plus rebase pointers now that #825/#841/#842 reshaped the base.

Suggested sequencing: land #841 and #842 (either order — no file overlap), then rebase this PR once onto the result, folding in the δ-range fix and the naming/docstring cleanup pass deferred from #825 (it churns the same Folding files).

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 3]
```diff
@@ -1,11 +1,14 @@
...
 Copyright (c) 2026 ArkLib Contributors. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: František Silváši, Ilia Vlasov
+Authors: František Silváši, Ilia Vlasov, Aristotle (Harmonic)
 -/
 
 import ArkLib.Data.CodingTheory.Basic.BlockRelDistance
 import ArkLib.Data.CodingTheory.ProximityGap.Folding
+import ArkLib.Data.CodingTheory.ProximityGap.Folding.FoldingContext
+import ArkLib.Data.CodingTheory.ProximityGap.MCAGenerator
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean:10]: Rebase pointers (a lot moved under this PR in the last days):

- #689's content is now on main (merged as #825), so this PR's own base half is in-tree; the remaining delta is the eight Theorem-4.20 commits.
- #766 moved the MCA layer to `ArkLib/Data/CodingTheory/ProximityGenerator/` — this import path is the main casualty; `univariatePowersGenerator`, `IsMCAGenerator`, `IsMCA`, `mcaError` all survive in `ProximityGenerator/Basic.lean`.
- #841 (interleaved RS / Lemma 4.4) and #842 (constrained RS on `SmoothCosetFftDomain`) supersede #768/#778 and are open; suggest rebasing this PR once, after those land.
- The new `lake exe lint-style` gate (no suppressions) requires module docstrings and 4-space declaration-continuation indents — it will flag this file on rebase.
- The red "build" check on the current head was a CI-gate bug fixed by #828 — Lean never ran. I built this head locally: green, zero warnings in touched files.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 4]
```diff
@@ -65,52 +67,590 @@ lemma folding_contracts_block_distance
...
+
+open CoreDefinitions unitInterval in
+/-- **Theorem 4.20 of [ACFY24].** Let `C = RS[F, ω, 2 ^ d]` be a smooth Reed-Solomon code and
+  `k ≤ d`, and let `C⁽ⁱ⁾ = RS[F, ω^(2 ^ i), 2 ^ (d - i)]`. If `Gen(2; α) = (1, α)` is a proximity
+  generator with mutual correlated agreement for `C⁽¹⁾, …, C⁽ᵏ⁾` with errors `ε 0, …, ε (k-1)`,
+  then for every `f` and every `δ` below the proximity bound of each `C⁽ⁱ⁾`,
+  `Pr_α [ Fold(Λ_b(C, k, f, δ), α) ≠ Λ(C⁽ᵏ⁾, Fold(f, α), δ) ] ≤ ∑ i < k, ε i δ`.
+  The `k` rounds of randomness are sampled independently and uniformly, and the bound is the
+  union bound over the per-round failure probabilities of `folding_reflects_balls'`. -/
+theorem iterated_folding_reflects_balls [Fintype F]
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean:636]: Two smaller points on the final statement:

1. The RHS ball is spelled inline (`{v | v ∈ C⁽ᵏ⁾ ∧ …}`); consider the `Λ𞁒(…, 0, …)` form plus `blockRelDistanceBall_zero`, or a named Hamming-ball spelling, so downstream users can `rw` into either.
2. After the rebase, main's `CapacityBounds/{JohnsonMca,Powers}.lean` bound `mcaError` for `univariatePowersGenerator` — worth a TODO for a corollary discharging `hmca` in-tree, giving Theorem 4.20 with explicit errors.
